US08003806B2
(a) 3-{3-[(4-Methoxybenzyl)amino]-2-nitroanilino}-3-phenylpropanoic acid
To a solution of 2,6-difluoronitrobenzene (200 mg, 1.26 mmol) in DMSO (2 mL) was added 3-amino-3-phenylpropionic acid (228 mg, 1.39 mmol) and potassium carbonate (347 mg, 2.52 mmol). The suspension was heated to 100° C. for 0.5 hour, and 4-methoxybenzylamine (180 μL, 1.39 mmol) was added, and heating continued for a further 3 hours. The suspension was cooled to room temperature, and partitioned between water and ethyl acetate. The aqueous layer was acidified with dilute hydrochloric acid (pH<4), and then extracted with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (19:1) to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=4.75 min, MH+ 422].

reactant | 2,6-difluoronitrobenzene | 1.26 mmol, 200 mg | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-amino-3-phenylpropionic acid | 1.39 mmol, 228 mg | NC(CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | potassium carbonate | 2.52 mmol, 347 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxybenzylamine | 1.39 mmol, 180 μL | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-{3-[(4-Methoxybenzyl)amino]-2-nitroanilino}-3-phenylpropanoic acid | COC1=CC=C(CNC=2C(=C(NC(CC(=O)O)C3=CC=CC=C3)C=CC2)[N+](=O)[O-])C=C1 | C23H23N3O5
